US08486970B2
To a mixed liquid of 4.40 g of N-[(benzyloxy)carbonyl]-3-[(methylsulfonyl)amino]-D-alanine methyl ester, 100 ml of THF, and 50 ml of ethanol was added 1.13 g of lithium chloride, and 1.01 g of sodium borohydride was further added thereto under ice-cooling. The reaction solution was stirred at room temperature for 14 hours, and the solvent was then evaporated under reduced pressure. After adding 150 ml of water, concentrated hydrochloric acid was added thereto until the pH reached 2 to 3. The solution was extracted with ethyl acetate, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain 3.10 g of benzyl[(1R)-2-hydroxy-1-{[(methylsulfonyl)amino]methyl}ethyl]carbamate as a white solid.

reactant | N-[(benzyloxy)carbonyl]-3-[(methylsulfonyl)amino]-D-alanine methyl ester | 4.40 g | COC([C@H](NC(=O)OCC1=CC=CC=C1)CNS(=O)(=O)C)=O | C13H18N2O6S
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | lithium chloride | 1.13 g | [Cl-].[Li+]
reactant | sodium borohydride | 1.01 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | benzyl[(1R)-2-hydroxy-1-{[(methylsulfonyl)amino]methyl}ethyl]carbamate | 3.10 g | C(C1=CC=CC=C1)OC(N[C@@H](CO)CNS(=O)(=O)C)=O | C12H18N2O5S
